US07534547B2
To 35.0 g (175.0 mmol) of 4-(benzyloxy)phenol were added 100 ml of dried tetrahydrofuran and 17.7 g (175.2 mmol) of triethylamine, and the mixture was homogeneously dissolved. Next, 13.75 g (175.2 mmol) of acetyl chloride was added to the resultant mixture with cooling with ice. The reaction was conducted at a room temperature for 24 hours. The reaction mixture was poured into 500 ml of an iced water and a solid was formed by stirring. The resultant solid was collected by filtration, dried, and recrystallized from a mixed solvent of hexane/toluene to give 40.3 g (166.5 mmol) of benzyl-(4-acetoxyphenyl)ether.

reactant | 4-(benzyloxy)phenol | 175.0 mmol, 35.0 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)O | C13H12O2
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
reactant | triethylamine | 175.2 mmol, 17.7 g | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 175.2 mmol, 13.75 g | C(C)(=O)Cl | C2H3ClO
solvent | water | 500 ml | O | H2O
product | benzyl-(4-acetoxyphenyl)ether | 166.5 mmol, 40.3 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)OC(C)=O | C15H14O3
